* c:\users\drsur\documents\potentiometric-dac\potentiometric-dac.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m3 vdd v1 net-_m1-pad1_ vdd CMOSP W=100u L=100u M=1
m7 net-_m7-pad1_ net-_m1-pad1_ net-_m10-pad1_ net-_m7-pad4_ CMOSP W=100u L=100u M=1
m9 net-_m7-pad1_ v1 net-_m10-pad1_ net-_m10-pad1_ CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ v1 gnd gnd CMOSN W=100u L=100u M=1
m5 net-_m10-pad1_ net-_m1-pad1_ net-_m10-pad3_ net-_m5-pad4_ CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ v1 net-_m10-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m14 vdd v2 net-_m13-pad1_ vdd CMOSP W=100u L=100u M=1
m16 net-_m16-pad1_ net-_m13-pad1_ vout net-_m10-pad1_ CMOSP W=100u L=100u M=1
m17 net-_m16-pad1_ v2 vout vout CMOSN W=100u L=100u M=1
m13 net-_m13-pad1_ v2 gnd gnd CMOSN W=100u L=100u M=1
m15 vout net-_m13-pad1_ net-_m15-pad3_ net-_m11-pad3_ CMOSN W=100u L=100u M=1
m18 vout v2 net-_m15-pad3_ vout CMOSP W=100u L=100u M=1
m4 vdd v1 net-_m2-pad1_ vdd CMOSP W=100u L=100u M=1
m8 net-_m11-pad1_ net-_m2-pad1_ net-_m11-pad3_ net-_m8-pad4_ CMOSP W=100u L=100u M=1
m11 net-_m11-pad1_ v1 net-_m11-pad3_ net-_m11-pad3_ CMOSN W=100u L=100u M=1
m2 net-_m2-pad1_ v1 gnd gnd CMOSN W=100u L=100u M=1
m6 net-_m11-pad3_ net-_m2-pad1_ net-_m12-pad3_ net-_m6-pad4_ CMOSN W=100u L=100u M=1
m12 net-_m11-pad3_ v1 net-_m12-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
r1  /vref net-_m7-pad4_ 0.625k
r2  net-_m7-pad4_ net-_m5-pad4_ 0.625k
r3  net-_m5-pad4_ net-_m8-pad4_ 0.625k
r4  net-_m8-pad4_ net-_m6-pad4_ 0.625k
r5  net-_m6-pad4_ gnd 0.625k
v1 /vref gnd  dc 5
* u1  v1 plot_v1
* u2  v2 plot_v1
* u3  vout plot_v1
v2  gnd v1 pwl(0 0 1.99 0 2 5 3.99 5 4 0 5.99 0 6 5 7.99 5 8 0)
v3  v2 gnd pwl(0 0 3.99 0 4 5 7.99 5 8 0)
.tran 0.2e-00 8e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(v1)
plot v(v2)
plot v(vout)
.endc
.end
