* C:\Users\drsur\Documents\3bit_PDAC\3bit_PDAC.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/23/20 16:14:24

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R1  /Vref Net-_M13-Pad4_ 0.625k		
R2  Net-_M13-Pad4_ Net-_M9-Pad4_ 0.625k		
R3  Net-_M9-Pad4_ Net-_M14-Pad4_ 0.625k		
R4  Net-_M14-Pad4_ Net-_M10-Pad4_ 0.625k		
R5  Net-_M10-Pad4_ Net-_M15-Pad4_ 0.625k		
R6  Net-_M15-Pad4_ Net-_M11-Pad4_ 0.625k		
R7  Net-_M11-Pad4_ Net-_M16-Pad4_ 0.625k		
R8  Net-_M16-Pad4_ Net-_M12-Pad4_ 0.625k		
M5  VDD V1 Net-_M1-Pad1_ VDD eSim_MOS_P		
M13  Net-_M13-Pad1_ Net-_M1-Pad1_ Net-_M13-Pad3_ Net-_M13-Pad4_ eSim_MOS_P		
M17  Net-_M13-Pad1_ V1 Net-_M13-Pad3_ Net-_M13-Pad3_ eSim_MOS_N		
M1  Net-_M1-Pad1_ V1 GND GND eSim_MOS_N		
M9  Net-_M13-Pad3_ Net-_M1-Pad1_ Net-_M21-Pad3_ Net-_M9-Pad4_ eSim_MOS_N		
M21  Net-_M13-Pad3_ V1 Net-_M21-Pad3_ Net-_M13-Pad3_ eSim_MOS_P		
M6  VDD V1 Net-_M10-Pad2_ VDD eSim_MOS_P		
M14  Net-_M14-Pad1_ Net-_M10-Pad2_ Net-_M10-Pad1_ Net-_M14-Pad4_ eSim_MOS_P		
M18  Net-_M14-Pad1_ V1 Net-_M10-Pad1_ Net-_M10-Pad1_ eSim_MOS_N		
M2  Net-_M10-Pad2_ V1 GND GND eSim_MOS_N		
M10  Net-_M10-Pad1_ Net-_M10-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad4_ eSim_MOS_N		
M22  Net-_M10-Pad1_ V1 Net-_M10-Pad3_ Net-_M10-Pad1_ eSim_MOS_P		
M7  VDD V1 Net-_M11-Pad2_ VDD eSim_MOS_P		
M15  Net-_M15-Pad1_ Net-_M11-Pad2_ Net-_M11-Pad1_ Net-_M15-Pad4_ eSim_MOS_P		
M19  Net-_M15-Pad1_ V1 Net-_M11-Pad1_ Net-_M11-Pad1_ eSim_MOS_N		
M3  Net-_M11-Pad2_ V1 GND GND eSim_MOS_N		
M11  Net-_M11-Pad1_ Net-_M11-Pad2_ Net-_M11-Pad3_ Net-_M11-Pad4_ eSim_MOS_N		
M23  Net-_M11-Pad1_ V1 Net-_M11-Pad3_ Net-_M11-Pad1_ eSim_MOS_P		
M8  VDD V1 Net-_M12-Pad2_ VDD eSim_MOS_P		
M16  Net-_M16-Pad1_ Net-_M12-Pad2_ Net-_M12-Pad1_ Net-_M16-Pad4_ eSim_MOS_P		
M20  Net-_M16-Pad1_ V1 Net-_M12-Pad1_ Net-_M12-Pad1_ eSim_MOS_N		
M4  Net-_M12-Pad2_ V1 GND GND eSim_MOS_N		
M12  Net-_M12-Pad1_ Net-_M12-Pad2_ Net-_M12-Pad3_ Net-_M12-Pad4_ eSim_MOS_N		
M24  Net-_M12-Pad1_ V1 Net-_M12-Pad3_ Net-_M12-Pad1_ eSim_MOS_P		
M27  VDD V2 Net-_M25-Pad1_ VDD eSim_MOS_P		
M31  Net-_M31-Pad1_ Net-_M25-Pad1_ Net-_M29-Pad1_ Net-_M13-Pad3_ eSim_MOS_P		
M33  Net-_M31-Pad1_ V2 Net-_M29-Pad1_ Net-_M29-Pad1_ eSim_MOS_N		
M25  Net-_M25-Pad1_ V2 GND GND eSim_MOS_N		
M29  Net-_M29-Pad1_ Net-_M25-Pad1_ Net-_M29-Pad3_ Net-_M10-Pad1_ eSim_MOS_N		
M35  Net-_M29-Pad1_ V2 Net-_M29-Pad3_ Net-_M29-Pad1_ eSim_MOS_P		
M28  VDD V2 Net-_M26-Pad1_ VDD eSim_MOS_P		
M32  Net-_M32-Pad1_ Net-_M26-Pad1_ Net-_M30-Pad1_ Net-_M11-Pad1_ eSim_MOS_P		
M34  Net-_M32-Pad1_ V2 Net-_M30-Pad1_ Net-_M30-Pad1_ eSim_MOS_N		
M26  Net-_M26-Pad1_ V2 GND GND eSim_MOS_N		
M30  Net-_M30-Pad1_ Net-_M26-Pad1_ Net-_M30-Pad3_ Net-_M12-Pad1_ eSim_MOS_N		
M36  Net-_M30-Pad1_ V2 Net-_M30-Pad3_ Net-_M30-Pad1_ eSim_MOS_P		
M38  VDD V3 Net-_M37-Pad1_ VDD eSim_MOS_P		
M40  Net-_M40-Pad1_ Net-_M37-Pad1_ Vo Net-_M29-Pad1_ eSim_MOS_P		
M41  Net-_M40-Pad1_ V3 Vo Vo eSim_MOS_N		
M37  Net-_M37-Pad1_ V3 GND GND eSim_MOS_N		
M39  Vo Net-_M37-Pad1_ Net-_M39-Pad3_ Net-_M30-Pad1_ eSim_MOS_N		
M42  Vo V3 Net-_M39-Pad3_ Vo eSim_MOS_P		
R9  Net-_M12-Pad4_ GND 0.625k		
v1  /Vref GND DC		
v2  GND V1 pwl		
v3  GND V2 pwl		
v4  GND V3 pwl		

.end
