* c:\users\drsur\documents\pdac\pdac.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
r1  /vref net-_m13-pad4_ 0.625k
r2  net-_m13-pad4_ net-_m9-pad4_ 0.625k
r3  net-_m9-pad4_ net-_m14-pad4_ 0.625k
r4  net-_m14-pad4_ net-_m10-pad4_ 0.625k
r5  net-_m10-pad4_ net-_m15-pad4_ 0.625k
r6  net-_m15-pad4_ net-_m11-pad4_ 0.625k
r7  net-_m11-pad4_ net-_m16-pad4_ 0.625k
r8  net-_m16-pad4_ net-_m12-pad4_ 0.625k
m5 vdd v1 net-_m1-pad1_ vdd CMOSP W=100u L=100u M=1
m13 net-_m13-pad1_ net-_m1-pad1_ net-_m13-pad3_ net-_m13-pad4_ CMOSP W=100u L=100u M=1
m17 net-_m13-pad1_ v1 net-_m13-pad3_ net-_m13-pad3_ CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ v1 gnd gnd CMOSN W=100u L=100u M=1
m9 net-_m13-pad3_ net-_m1-pad1_ net-_m21-pad3_ net-_m9-pad4_ CMOSN W=100u L=100u M=1
m21 net-_m13-pad3_ v1 net-_m21-pad3_ net-_m13-pad3_ CMOSP W=100u L=100u M=1
m6 vdd v1 net-_m10-pad2_ vdd CMOSP W=100u L=100u M=1
m14 net-_m14-pad1_ net-_m10-pad2_ net-_m10-pad1_ net-_m14-pad4_ CMOSP W=100u L=100u M=1
m18 net-_m14-pad1_ v1 net-_m10-pad1_ net-_m10-pad1_ CMOSN W=100u L=100u M=1
m2 net-_m10-pad2_ v1 gnd gnd CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad4_ CMOSN W=100u L=100u M=1
m22 net-_m10-pad1_ v1 net-_m10-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m7 vdd v1 net-_m11-pad2_ vdd CMOSP W=100u L=100u M=1
m15 net-_m15-pad1_ net-_m11-pad2_ net-_m11-pad1_ net-_m15-pad4_ CMOSP W=100u L=100u M=1
m19 net-_m15-pad1_ v1 net-_m11-pad1_ net-_m11-pad1_ CMOSN W=100u L=100u M=1
m3 net-_m11-pad2_ v1 gnd gnd CMOSN W=100u L=100u M=1
m11 net-_m11-pad1_ net-_m11-pad2_ net-_m11-pad3_ net-_m11-pad4_ CMOSN W=100u L=100u M=1
m23 net-_m11-pad1_ v1 net-_m11-pad3_ net-_m11-pad1_ CMOSP W=100u L=100u M=1
m8 vdd v1 net-_m12-pad2_ vdd CMOSP W=100u L=100u M=1
m16 net-_m16-pad1_ net-_m12-pad2_ net-_m12-pad1_ net-_m16-pad4_ CMOSP W=100u L=100u M=1
m20 net-_m16-pad1_ v1 net-_m12-pad1_ net-_m12-pad1_ CMOSN W=100u L=100u M=1
m4 net-_m12-pad2_ v1 gnd gnd CMOSN W=100u L=100u M=1
m12 net-_m12-pad1_ net-_m12-pad2_ net-_m12-pad3_ net-_m12-pad4_ CMOSN W=100u L=100u M=1
m24 net-_m12-pad1_ v1 net-_m12-pad3_ net-_m12-pad1_ CMOSP W=100u L=100u M=1
m27 vdd v2 net-_m25-pad1_ vdd CMOSP W=100u L=100u M=1
m31 net-_m31-pad1_ net-_m25-pad1_ net-_m29-pad1_ net-_m13-pad3_ CMOSP W=100u L=100u M=1
m33 net-_m31-pad1_ v2 net-_m29-pad1_ net-_m29-pad1_ CMOSN W=100u L=100u M=1
m25 net-_m25-pad1_ v2 gnd gnd CMOSN W=100u L=100u M=1
m29 net-_m29-pad1_ net-_m25-pad1_ net-_m29-pad3_ net-_m10-pad1_ CMOSN W=100u L=100u M=1
m35 net-_m29-pad1_ v2 net-_m29-pad3_ net-_m29-pad1_ CMOSP W=100u L=100u M=1
m28 vdd v2 net-_m26-pad1_ vdd CMOSP W=100u L=100u M=1
m32 net-_m32-pad1_ net-_m26-pad1_ net-_m30-pad1_ net-_m11-pad1_ CMOSP W=100u L=100u M=1
m34 net-_m32-pad1_ v2 net-_m30-pad1_ net-_m30-pad1_ CMOSN W=100u L=100u M=1
m26 net-_m26-pad1_ v2 gnd gnd CMOSN W=100u L=100u M=1
m30 net-_m30-pad1_ net-_m26-pad1_ net-_m30-pad3_ net-_m12-pad1_ CMOSN W=100u L=100u M=1
m36 net-_m30-pad1_ v2 net-_m30-pad3_ net-_m30-pad1_ CMOSP W=100u L=100u M=1
m38 vdd v3 net-_m37-pad1_ vdd CMOSP W=100u L=100u M=1
m40 net-_m40-pad1_ net-_m37-pad1_ vo net-_m29-pad1_ CMOSP W=100u L=100u M=1
m41 net-_m40-pad1_ v3 vo vo CMOSN W=100u L=100u M=1
m37 net-_m37-pad1_ v3 gnd gnd CMOSN W=100u L=100u M=1
m39 vo net-_m37-pad1_ net-_m39-pad3_ net-_m30-pad1_ CMOSN W=100u L=100u M=1
m42 vo v3 net-_m39-pad3_ vo CMOSP W=100u L=100u M=1
r9  net-_m12-pad4_ gnd 0.625k
v1 /vref gnd  dc 5
v2  gnd v1 pwl(0 0 1.99 0 2 5 3.99 5 4 0 5.99 0 6 5 7.99 5 8 0)
v3  gnd v2 pwl(0 0 3.99 0 4 5 7.99 5 8 0)
v4  gnd v3 pwl(0 0 1.99 0 2 5 5.99 5 6 0 6.99 0 7 5 7.99 5 8 0)
.tran 0.2e-00 8e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
